US06602825B1
Allyl 2-[2-chloro-5-(3,5-dimethyl-2,6-dioxo-[1,3,5]triazinan-1-yl)-4-fluorophenoxy]propionate (racemate)
0.37 g (2.65 mmol) of K2CO3 and 0.51 g (2.65 mmol) of rac. allyl 2-bromopropionate were added approximately at 20° C. to a solution of 0.80 g (2.52 mmol) of 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1,5-dimethyl-6-thioxo-[1,3,5]triazinane-2,4-dione in 15 ml of dimethylformamide. After the reaction mixture had been stirred for two hours at approximately 20° C., it was stirred into ice-water. The product was extracted three times with methyl tert-butyl ether. The combined organic phases were dried over magnesium sulfate and then concentrated. The crude product (1.18 g) was purified by column chromatography (mobile phase: cyclohexane/ethyl acetate=15:1). Yield: 0.88 g (81%); 1H NMR (270 MHz, in CDCl3): δ[ppm]=1.7 (d, 3H), 3.8 (s, 6H), 4.6 (m, 2H), 4.7 (q, 1H), 5.2 (d, 1H), 5.3 (d, 1H), 5.9 (m, 1H), 6.9 (d, 1H), 7.3 (d, 1H).

reactant | K2CO3 | 2.65 mmol, 0.37 g | C(=O)([O-])[O-].[K+].[K+]
reactant | rac. allyl 2-bromopropionate | 2.65 mmol, 0.51 g | BrC(C(=O)OCC=C)C | C6H9BrO2
reactant | 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1,5-dimethyl-6-thioxo-[1,3,5]triazinane-2,4-dione | 2.52 mmol, 0.80 g | ClC1=CC(=C(C=C1O)N1C(N(C(N(C1=O)C)=S)C)=O)F | C11H9ClFN3O3S
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | Allyl 2-[2-chloro-5-(3,5-dimethyl-2,6-dioxo-[1,3,5]triazinan-1-yl)-4-fluorophenoxy]propionate | ClC1=C(OC(C(=O)OCC=C)C)C=C(C(=C1)F)N1C(N(CN(C1=O)C)C)=O | C17H19ClFN3O5
